2156-02-14 09:08:00 Physician Attending Progress Note
Chief Complaint: Cardiac Arrest
   Altered Mental Status
   Sepsis with C. Diff infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-2-13**] 09:30 PM
 ARTERIAL LINE - START [**2156-2-13**] 09:51 PM
   placed in outside facility
 MULTI LUMEN - START [**2156-2-13**] 09:51 PM
   placed in outside facility
   -Neo off
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-2-14**] 01:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-14**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 154 (134 - 160) bpm
   BP: 94/68(76) {94/68(76) - 122/97(106)} mmHg
   RR: 20 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: JT (Junctional Tachycardia)
   CVP: 8 (8 - 14)mmHg
   Mixed Venous O2% Sat: 59 - 59
                              Total In:
                                                                    162 mL
                                                                  1,427 mL
   PO:
                              TF:
   IVF:
                                                                    162 mL
                                                                    766 mL
   Blood products:
   601 mL
   Total out:
                                                                    150 mL
                                                                  1,330 mL
   Urine:
                                                                    150 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     12 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 58
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.54/28/178/24/3
   Ve: 6.9 L/min
   PaO2 / FiO2: 509
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
Patient with decreased muscle tone
she has clearly diminished
   reflexes but largely symmetric.  She has following of commands with
   movement in all extremities.   She has equal and reactive pupils.
   Distal Pulses
decreased by warm extremeties
   Labs / Radiology
   9.4 g/dL
   510 K/uL
   100 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.6 mEq/L
   12 mg/dL
   101 mEq/L
   132 mEq/L
   27.8 %
   16.0 K/uL
        [image002.jpg]
                             [**2156-2-13**]  10:12 PM
                             [**2156-2-13**]  10:51 PM
                             [**2156-2-14**]  12:55 AM
                             [**2156-2-14**]  03:59 AM
                             [**2156-2-14**]  04:26 AM
   WBC
   20.8
   16.0
   Hct
   33.8
   27.8
   Plt
   635
   510
   Cr
   0.9
   0.8
   TropT
   0.04
   0.03
   TCO2
   21
   21
   25
   Glucose
   130
   100
   Other labs: PT / PTT / INR:26.8/42.3/2.7, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:2.2 mmol/L, Albumin:2.9 g/dL, LDH:268 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: AG-7
   ABG--7.54/28/178--on current settings
   Imaging: CXR--Patient with minimal infiltrates, ETT and IJ in good
   position.  Has deep sulcus on right but no evidence of pneumothorax but
   will follow up with radiology final read.
   Microbiology: Reported negative results from OSH outside of
   C. Diff positive at OSH
   Assessment and Plan
   78 yo female who is s/p cardiac arrest and has history of SVT,
   extensive DVT and arterial clot complicated by PE and splenic infarct
   who had recent admission for PE and concern for HIT but was HIT Ab
   negative.  She, at home, had some decreased activity and then at 4am
   had dyspnea, LOC and EMS arrived and had defibrillation and return of
   pulse and had return of spontaneous rhythm.  CTA there had no PE but
   tachycardia persisted and Amiodarone started with hypotension supported
   with Neosynephrine IV.  Vanco/Zosyn started for fever and C. Diff found
   in stool sample.  Furthermore, patient had no sedation given following
   inbutation but with only withdrawl response to pain and eye opening to
   voice following arrest on [**2-11**].  In that setting patient with small SAH
   noted and argatroban stopped.  Head CT with severe atrophy but
   relatively little evidence of anoxic brain injury.  Multiple active
   issues with some significant interaction to be managed as follows-->
   1)Respiratory Failure-
   -Continue with MMV and will decrease rate to 6
   -Mental status is primary barrier to extubation and will support.
   2)Altered Mental Status/SAH-
   -Some improvement in exam across time, no clear discrete evidence of
   significant edema.  She has sedation  with-held and has shown
   improvement across initial 72 hours.
   -No cooling performed
   -She has small SAH with N-[**Doctor First Name **] input defining it as small and unlikely
   to drive impaired mental status.
   3)Tachycardia-NSVT
likely re-entrant tachycardia noted and with trigger
   into tachycardia
prominent V-waves noted and clear decrease in SBP to
   94.  With return to SR patient has clearly evolved normal A-wave,
   V-wave morphology.  This would suggest that the presence of the
   re-entrant rhythm actually has substantial impact on effective stroke
   volume
   -EP to aid in evaluation and continue to prescribe meds/procedures to
   control
   -Continue  with Amiodarone
   -Needs to maintain sinus rhythm
   4)C. Diff-
   -po vanco to continue
   -Will have to discuss with ID
   5)Sepsis/Hypotension-
   -Continued on Neo IV---discontinued this morning with BP stabilized
   -On Hydrocortisone 50mg q 8
   -Follow up cultures for possible addition of antibiotics
   -Follow up C. Diff cultures
   6)SUBARACHNOID HEMORRHAGE (SAH)-
   -N-[**Doctor First Name 91**] review of CT scan helpful, clear bias towards anti-coagulation
   given extensive clot and PE history and tenuous hemodynamic status with
   unstable arrhythmia
   -Will anticoagulate with Argatroban to goal PTT-2x upper limit
   -Creatinine is normal
   -Will start when INR <2.0
   -Will need to follow exam and CT in am
   7)Hypercoagulable State/DVT-
   -Will consult Heme to aid in choices of anticoagulation and
   consideration of causes
   -Will pursue Argatroban for anticoagulation in the setting of extensive
   clot
   ICU Care
   Nutrition: TF
s to start
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-2-13**] 09:51 PM
   Multi Lumen - [**2156-2-13**] 09:51 PM
Has IJ placement at OSH with
   currently having anticoagulation, unstable rhythm and need for change
   for prevention of infection at earliest possible time that clinical
   stability permits
   Prophylaxis:
   DVT: (INR elevated)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Husband
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2156-02-15 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - L IJ and A-line placed
   - R IJ from OSH removed and cath tip sent for cx
   - Continues to convert into SVT, then back to NSR
   - Cards recs: Cont amiodarone
   - TF started
   - Echo:  When HR 150/min, severe global hypokinesis (LVEF<20%) When HR
   84/min, improved function of basal segments, with persistent [**Last Name (un) 5291**]
   hypo/near akinesis of the distal half of the septum and anterior wall
   and apical aneurysm (LAD infarct pattern distribution with overall LVEF
   25-30%), 1+ TR, 3+ MR
   - Head CT: Linear foci of high attenuation are noted in the left
   frontal region - may represent small foci of subarachnoid hemorrhage.
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-15**] 06:05 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Argatroban - 1.25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-15**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 146 (67 - 154) bpm
   BP: 97/69(77) {93/68(76) - 149/93(215)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: PJT (Paroxysmal Junctional Tachycardia)
    CVP: 10 (4 - 16)mmHg
   Total In:
                                                                  2,920 mL
                                                                  1,495 mL
   PO:
   TF:
                                                                    105 mL
   IVF:
                                                                  2,259 mL
                                                                  1,230 mL
   Blood products:
                                                                    601 mL
   Total out:
                                                                  1,925 mL
                                                                    150 mL
   Urine:
                                                                  1,925 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    995 mL
                                                                  1,345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 372 (354 - 420) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 64
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.45/34/164/22/0
   Ve: 5.3 L/min
   PaO2 / FiO2: 469
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Sedated
   Distal Pulses
decreased
   Labs / Radiology
   477 K/uL
   9.6 g/dL
   82 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   17 mg/dL
   104 mEq/L
   135 mEq/L
   28.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2156-2-13**]  10:12 PM
                             [**2156-2-13**]  10:51 PM
                             [**2156-2-14**]  12:55 AM
                             [**2156-2-14**]  03:59 AM
                             [**2156-2-14**]  04:26 AM
                             [**2156-2-14**]  04:50 PM
                             [**2156-2-14**]  04:56 PM
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
   WBC
   20.8
   16.0
   16.2
   15.5
   Hct
   33.8
   27.8
   28.4
   28.9
   Plt
   635
   510
   490
   477
   Cr
   0.9
   0.8
   0.9
   0.7
   TropT
   0.04
   0.03
   TCO2
   21
   21
   25
   25
   27
   24
   Glucose
   130
   100
   65
   82
   Other labs: PT / PTT / INR:25.7/49.6/2.5, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is a 78 yo female with SVT, extensive clot burden (aortic, PE,
   splenic infart), here s/p cardiac arrest now intubated, with SVT and
   hypotension.
   .
   1.  S/p Cardiac arrest.  Unclear precipitant of arrest.  Was reportedly
   in a shockable rhythmn upon EMS arrival, so possible ventricular
   arrythmia in the setting of being on quinidine and having a prolonged
   qtc interval (>650) on one EKG at OSH.  Also possibilitiy of SVT with
   hypotension given history of unstable SVT.  Cardiac enzymes were not
   significantly elevated at OSH so not likely to be acute MI.  Echo
   follow arrest showed EF fell to 20-25 from 45% two weeks ago.
   - F/u EP recs: cont amiodarone
   - serial EKGs
   .
   2.  SVT.  Patient has narrow complex tachycardia with no clear p waves,
   possibly AVNRT.  Started on amiodarone and neo, but had been discharged
   2 weeks ago with quinidine and metoprolol.  Reportly normotensive when
   in sinus rhythm.  Echo shows reduced EF from prior echo from 3 weeks
   ago concerning for ischemia versus tachycardia induced cardiomyopathy.
   - continue amiodarone
   - IVF boluses as CVP low when in NSR
   - F/u EP recs as above
   - hold quinidine
   .
   3. Altered mental status.  Patient has reportedly been off sedation for
   two days, now with some improvement of her neuro exam per OSH.
   Currently opens eyes to name, PERRL, withdraws to noxious stimuli, but
   does not follow commands.  AMS likely multifactorial due to anoxic
   brain injury, new findings of SAH, toxic-metabolic in setting of C.
   diff infection, and baseline generalized atrophy. Repeat head CT
   stable.
   - PO vanco for C. diff
   - Serial head CT for SAH evolution while on argatroban
   - Consider neuro consult
   - no sedation
   - consider repeat EEG
   - neurosurg c/s for safety of using anticoagulation with small SAH
   .
   4.  Hypotension.  Per OSH, when in sinus rhythm not hypotensive, so
   hypotension is likely secondary to tachycardia.  Also likely an element
   of hypovolemia in setting of lasix diuresis at OSH and ongoing C.
   diff.  Will also evaluate for other infectious sources.  Given clot
   burden, concern for recurrent PE, though CTA of chest reportedly
   negative from OSH and was therapeutic on coumadin on arrival to OSH.
   - IVF
   - blood, urine, sputum cultures
   - monitor urine output
   .
   5.  Extensive clot burden.  Patient has extensive clot burden likely
   presumed secondary to HIT, though HIT negative x 2.  Found to have
   large PE, splenic infarcts, large aortic thrombus.  No history of
   malignancy.
   - no heparin products
   - check HIT/SRA given high prob
   - heme consult re: dx of hit in setting of two negative HAB
   .
   6.  C. diff.  Found today to have C. diff and has ongoing diarrhea.
   - PO vanco
   .
   7.  Hyponatremia.  Likely hypovolemic in setting of C. diff and
   diuresis at OSH.
   - follow Na
   - IVF bolus
   .
   FEN: IVF, replete electrolytes, regular diet
   .
   Prophylaxis: cannot get subcutaneous heparin due to HIT, pneumoboots,
   PPI
   .
   Access: peripherals, RIJ pulled, L IJ ([**2-14**]), A-line ([**2-14**])
   .
   Code: Full, confirmed with HCP, husband
   .
   Communication: Husband, HCP
   .
   Disposition: ICU care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-2-15**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-14**] 02:28 PM
   Arterial Line - [**2156-2-14**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-02-15 09:47:00 Physician Attending Progress Note
Chief Complaint: Cardiac Arrest
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2156-2-14**] 02:28 PM
 ARTERIAL LINE - STOP [**2156-2-14**] 03:05 PM
   placed in outside facility
 ARTERIAL LINE - START [**2156-2-14**] 04:00 PM
 MULTI LUMEN - STOP [**2156-2-14**] 04:30 PM
   placed in outside facility
   OSH CVL removed--CVL placed without incidence
   Patient has been following commands, improved reflexes, able to
   tolerate PSV wean to SBT
                                  History obtained from [**Hospital 19**] Medical records
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-15**] 06:05 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Argatroban - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2156-2-15**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 163 (67 - 163) bpm
   BP: 146/97(112) {93/68(76) - 149/97(215)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: JT (Junctional Tachycardia)
   CVP: 16 (4 - 16)mmHg
   Total In:
                                                                  2,920 mL
                                                                  1,729 mL
   PO:
   TF:
                                                                    132 mL
   IVF:
                                                                  2,259 mL
                                                                  1,287 mL
   Blood products:
                                                                    601 mL
   Total out:
                                                                  1,925 mL
                                                                    195 mL
   Urine:
                                                                  1,925 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    995 mL
                                                                  1,534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 394 (354 - 420) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 64
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.45/34/164/22/0
   Ve: 5.6 L/min
   PaO2 / FiO2: 469
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   477 K/uL
   82 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.3 mEq/L
   17 mg/dL
   104 mEq/L
   135 mEq/L
   28.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2156-2-13**]  10:12 PM
                             [**2156-2-13**]  10:51 PM
                             [**2156-2-14**]  12:55 AM
                             [**2156-2-14**]  03:59 AM
                             [**2156-2-14**]  04:26 AM
                             [**2156-2-14**]  04:50 PM
                             [**2156-2-14**]  04:56 PM
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
   WBC
   20.8
   16.0
   16.2
   15.5
   Hct
   33.8
   27.8
   28.4
   28.9
   Plt
   635
   510
   490
   477
   Cr
   0.9
   0.8
   0.9
   0.7
   TropT
   0.04
   0.03
   TCO2
   21
   21
   25
   25
   27
   24
   Glucose
   130
   100
   65
   82
   Other labs: PT / PTT / INR:25.7/49.5/2.5, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: ECHO--
   Global HK and EF=20%
   Persistant apical ballooning and AK in anterior/septum when SR
   returned.
   Assessment and Plan
   78 yo female now admit with cardiac arrest in the setting of Quinidine
   and now with d/c of agents has shown substantial improvement in
   hemodynamics with volume replacement.  She has had some intermittent
   return to SR with Amiodarone started and QTc has decreased
   significantly.  During times of tachycardia she does have significant
   impairment of effective stroke volume and in the setting of some volume
   replacement has had improved stability of blood pressure.  She has had
   substantial improvement in neurologic exam across the first 24hours
   here.  This is in the setting of argatroban continued in the setting of
   small SAH given extensive arterial and venous clot burden and after
   discussion with Neurosurgery.
   0.5)Respiratory Failure
patient with minimal secretions, patient with
   improved mental status
opens eyes to voice but minimal follow of
   commands.  She does have favorable RSBI and tolerance of SBT with
   modest increase in HR but that is confounded by atrial trachycardia
   intermittent.  She has reasonable gag reflex and in the setting of
   minimal secretions is favorable for extubation.
   -If ABG favorable following SBT extubate
   -Will maintain PSV if SBT unfavorable
   -Will extubate post CT today
   1)CARDIAC ARREST/TACHYCARDIA-Likely related to R on T type phenomena in
   the setting of quinidine
   -Amiodarone to continue
   -EP to follow
   2)C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   -PO Vanco to continue
   3)SUBARACHNOID HEMORRHAGE (SAH)-
   -Mental status continues slow trend to improvement
   -Will repeat head CT today pre-extubation
   4)Venous Thombosis-
   -Argatroban
   -Careful dosing of levels but is required in the setting of such
   extensive clot burden
   -Consult  with HEME consult team as to source of signficiant thombosis
   Additional issues to be treated as defined in the housestaff note of
   this date
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-14**] 02:28 PM
   Arterial Line - [**2156-2-14**] 04:00 PM
   Prophylaxis:
   DVT: (Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2156-02-16 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Added 5mg IV metoprolol q6h for SVT
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-15**] 06:05 AM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Midazolam (Versed) - [**2156-2-15**] 09:15 PM
   Lorazepam (Ativan) - [**2156-2-15**] 11:00 PM
   Metoprolol - [**2156-2-16**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-16**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 128 (70 - 163) bpm
   BP: 87/76(81) {87/64(75) - 160/102(140)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
    CVP: 10 (7 - 17)mmHg
   Total In:
                                                                  2,713 mL
                                                                    206 mL
   PO:
   TF:
                                                                    132 mL
   IVF:
                                                                  2,241 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                     45 mL
   Urine:
                                                                    374 mL
                                                                     45 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,089 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 186 (186 - 557) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 80
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.50/30/139/23/1
   Ve: 4.9 L/min
   PaO2 / FiO2: 397
   Physical Examination
   VS: t 97.7, 151, 100/76, 18, 100% on 35%
   GENERAL: NAD. intubated not sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple, normal JVP.
   CARDIAC: normal s1s2, tachycardic
   LUNGS: clear to auscultation b/l. good aeration
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting upper and le edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neuro: patient responding to verbal commands, squeezing hands and
   opening eyes.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   492 K/uL
   9.6 g/dL
   102 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   20 mg/dL
   103 mEq/L
   134 mEq/L
   28.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2156-2-14**]  04:26 AM
                             [**2156-2-14**]  04:50 PM
                             [**2156-2-14**]  04:56 PM
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
                             [**2156-2-15**]  09:42 AM
                             [**2156-2-15**]  04:05 PM
                             [**2156-2-16**]  04:07 AM
                             [**2156-2-16**]  04:15 AM
   WBC
   16.2
   15.5
   12.6
   Hct
   28.4
   28.9
   29.8
   28.8
   Plt
   490
   477
   492
   Cr
   0.9
   0.7
   0.8
   TCO2
   25
   25
   27
   24
   22
   24
   Glucose
   65
   82
   102
   Other labs: PT / PTT / INR:23.0/42.7/2.2, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This patient is a 78 y/o F with history of HTN, SVT, with massive clot
   burder, likely secondary to HIT, presenting with cardiac arrest likely
   secondary to torsades from quinidine/metoprolol.
   SVT: AVNRT vs AT. Intermittently HR 150's, otherwise in 80s. Her bp
   tolerated the SVT with SBPs in 110s. She is hypertensive when in sinus.
   patient has had this since [**2147**]. She was planned for ablation prior to
   urological procedure. She was re-admitted for clot burden before this
   could happen, so pt was started on quinidine and metoprolol. She came
   in with cardiac arrest secondary to torsades
   - Anticipate EP ablation today.
   - Amiodarone gtt for now at 0.5mg/min
   - will switch to Amiodarone 200mg TID PO when extubated
   s/p Cardiac arrest: patient had a QTc of 672 on arrival to [**Location (un) **]
   [**Location (un) 478**]. cardiac arrest likely secondary to torsades from quinidine.
   Patient intubated initially requiring phenylephrine, now off. CE
   negative at OSH, so not from ACS.
   Torsades: likely secondary to quinidine and metoprolol. The patient had
   cardiac arrest, likely secondary to this. OSH EKG with QTc in 670s. Her
   QT is now 440s.
   - Will hold all QT prolonging and AV blocking medications for now.
   Venous Thromboses: Patient has numerous thromboses with massive clot
   burden. She has PE, nonocclusive thrombosis of the descending aorta and
   upper abdominal aorta, splenic infarcts. This is presumably from HIT
   since platelets decreased by >50% on initial admission from hospital.
   She has had 2 negative HIT antibodies, but history suggestive of HIT,
   and DIC/hemolyis is not consistent.
   - appreciate hematology consult, will send Serotonin release assay, and
   make PTT goal lower.
   - continue argatroban for now with PTT goal 40-60.
   - hold off on coumadin pending plan for ablation
   Subarachnoid Hemorrhage: likely from anticoagulation and trauma of
   cardiac arrest. SAH is small on CT scan.
   - Neurosurgery recs appreciated
   - will obtain repeat head CT now
   - although anticoagulating patient with is SAH is not ideal, it is
   necessary in this case
   Respiratory Failure: Intubated in setting of cardiac arrest. The
   patient passed SBT this morning. Will extubate in the AM, after patient
   gets repeat head CT for SAH. Not on sedation.
   - extubate in AM
   Clostridium Difficile: No cultures, but patient presumed to have c diff
   because of elevated white count at OSH and c diff like stool
   - continue PO vanc for 2 week course (day 1 [**2-11**])
   - Start IV flagyl in case of decreased absorption from diarrhea
   - send stool for c diff
   - PRN loperamide
   Nausea/Gagging: patient gagging. With some green emesis. [**Month (only) 8**] also be
   secondary intubation with no sedation
   - antiemetics PRN
   - propofol
   Hematuria: likely secondary to anticoagulation. may have foley trauma
   - monitor Hct
   - will ultrasound bladder/kidney if hematurea continues
   - consult urology in the AM if it continues
   Altered mental status: improved. Patient was transferred to [**Hospital1 5**]
   because she was not following commands despite being off sedation. She
   had an EEG that showed encephalopathy at the OSH. she is following
   commands here, but anoxic brain injury is still possible considering
   cardiac arrest. Infection from c diff may also contribute.
   - extubate after EP study
   Hypotension: Resolved. off pressors for >36 hours
   FEN: tube feeds. will hold tube feeds at midnight for probable
   extubation in the AM
   ACCESS: Lt IJ and A-line
   PROPHYLAXIS: PPI while intubated. NO HEPARIN. Argatroban
   CODE: Full
   DISPO:CCU
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-14**] 02:28 PM
   Arterial Line - [**2156-2-14**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Argotroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - continues to be in stable SVT - by ECG appears to be AVNRT
   - responsive, but sedated
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-15**] 06:05 AM
   Metronidazole - [**2156-2-16**] 08:23 AM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Midazolam (Versed) - [**2156-2-15**] 09:15 PM
   Lorazepam (Ativan) - [**2156-2-15**] 11:00 PM
   Metoprolol - [**2156-2-16**] 05:30 AM
   Pantoprazole (Protonix) - [**2156-2-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-16**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 138 (70 - 163) bpm
   BP: 96/72(80) {87/64(75) - 160/102(120)} mmHg
   RR: 20 (18 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   CVP: 10 (7 - 17)mmHg
   Total In:
                                                                  2,713 mL
                                                                    407 mL
   PO:
   TF:
                                                                    132 mL
   IVF:
                                                                  2,241 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                    135 mL
   Urine:
                                                                    374 mL
                                                                    135 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  2,089 mL
                                                                    272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 361 (186 - 557) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 80
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.50/30/139/23/1
   Ve: 7.2 L/min
   PaO2 / FiO2: 397
   Physical Examination
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): , Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   492 K/uL
   102 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   20 mg/dL
   103 mEq/L
   134 mEq/L
   28.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2156-2-14**]  04:26 AM
                             [**2156-2-14**]  04:50 PM
                             [**2156-2-14**]  04:56 PM
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
                             [**2156-2-15**]  09:42 AM
                             [**2156-2-15**]  04:05 PM
                             [**2156-2-16**]  04:07 AM
                             [**2156-2-16**]  04:15 AM
   WBC
   16.2
   15.5
   12.6
   Hct
   28.4
   28.9
   29.8
   28.8
   Plt
   490
   477
   492
   Cr
   0.9
   0.7
   0.8
   TCO2
   25
   25
   27
   24
   22
   24
   Glucose
   65
   82
   102
   Other labs: PT / PTT / INR:23.0/42.7/2.2, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 COAGULOPATHY
   - continue argatroban for presumed HIT with venous and arterial
   thromboses
   - eventually needs warfarin for at least 12 months
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
   - slow AV nodal pathway ablation planned for today
 CARDIAC ARREST
   - presumed [**12-29**] quinidine-facilitated TdP
   - rhythm stable
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   - oral vancomycin
   - staff precautions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-14**] 02:28 PM
   Arterial Line - [**2156-2-14**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4563**], MD
   on:[**2156-2-16**] 10:14 ------

2156-02-17 05:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2156-2-16**] 04:00 PM
   -successful SVT ablation into NSR
   -d/c amiodarone gtt
   -heme does not think this is hitt so switched to hep from argatraban,
   serotonin assay still pending
   -no neurosurg recs
   -extubated this am
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2156-2-16**] 05:16 PM
   Vancomycin - [**2156-2-16**] 06:08 PM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-2-16**] 08:00 AM
   Metoprolol - [**2156-2-17**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-17**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 58 (58 - 141) bpm
   BP: 97/55(65) {88/55(63) - 117/79(85)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    896 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                    866 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    335 mL
   Urine:
                                                                    840 mL
                                                                    335 mL
   NG:
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                   -104 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 326 (186 - 394) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 4.9 L/min
   Physical Examination
   VS: t 97.7, 151, 100/76, 18, 100% on 35%
   GENERAL: NAD. intubated not sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple, normal JVP.
   CARDIAC: normal s1s2,RRR. No m/r/g
   LUNGS: clear to auscultation b/l. good aeration
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting upper and le edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neuro: patient responding to verbal commands, squeezing hands and
   opening eyes, wiggles toes. EOMI and PERRL. Speech garbled.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   461 K/uL
   9.6 g/dL
   102 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   20 mg/dL
   103 mEq/L
   134 mEq/L
   29.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2156-2-14**]  04:50 PM
                             [**2156-2-14**]  04:56 PM
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
                             [**2156-2-15**]  09:42 AM
                             [**2156-2-15**]  04:05 PM
                             [**2156-2-16**]  04:07 AM
                             [**2156-2-16**]  04:15 AM
                             [**2156-2-17**]  04:40 AM
   WBC
   16.2
   15.5
   12.6
   13.7
   Hct
   28.4
   28.9
   29.8
   28.8
   29.4
   Plt
   490
   477
   492
   461
   Cr
   0.9
   0.7
   0.8
   TCO2
   25
   27
   24
   22
   24
   Glucose
   65
   82
   102
   Other labs: PT / PTT / INR:23.0/42.7/2.2, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   A/P: This patient is a 78 y/o F with history of HTN, SVT, with massive
   clot burder, likely secondary to HIT, presenting with cardiac arrest
   likely secondary to torsades from quinidine/metoprolol.
   SVT: AVNRT vs AT. Now s/p ablation, has been in sinus rhythem since.
   This has been diagnosed [**2147**], asymtomatic. Patient had torsades after
   being started on quinidine/metoprolol to treat this.
   - discontinue amiodarone gtt
   - continue metoprolol 5mg IV q6hours, change to PO if tolerating,
   passes S/S
   Venous Thromboses: Patient has numerous thromboses with massive clot
   burden. She has PE, nonocclusive thrombosis of the descending aorta and
   upper abdominal aorta, splenic infarcts. Hematology consulted and feel
   symptoms with 2 negative HIT ab not c/w HIT sop have restarted heparin
   and will monitor.
   - appreciate hematology consult, f/u Serotonin release assay.
   - discontinue argatroban, had been switched to heparin, but will
   discontinue this and bridge to coumadin with lovenox
   - start with low coumadin dose 2mg given on flagyl and amiodarone
   - if neuro exam ad head CTs stable
   - malignancy w/u as outpatient
   Subarachnoid Hemorrhage: likely from anticoagulation and trauma of
   cardiac arrest. SAH is small on CT scan.
   - Neurosurgery recs appreciated
   - repeat head CT stable [**2-15**]
   - although anticoagulating patient with is SAH is not ideal, it is
   necessary in this case, will monitor neuro exams
   s/p Cardiac arrest: patient had a QTc of 672 on arrival to [**Location (un) **]
   [**Location (un) 478**]. cardiac arrest likely secondary to torsades from quinidine.
   Patient intubated initially requiring phenylephrine, now off. CE
   negative at OSH, so not from ACS.
   Torsades: likely secondary to quinidine and metoprolol. The patient had
   cardiac arrest, likely secondary to this. OSH EKG with QTc in 670s. Her
   QT is now 440s.
   -          Will hold all QT prolonging and AV blocking medications for
   now.
   -          ECG to monitor Qt
   Respiratory Failure: now extubated
   Clostridium Difficile: Patient had positive c diff at OSH, negative
   here.
   - continue PO vanc for 2 week course (day 1 [**2-11**]); needs S/S eval
   - IV flagyl in case of decreased absorption from diarrhea
   - hold loperamide given increased risk of toxic megacolon
   Nausea/Gagging: No further symptoms now extubated
   - antiemetics PRN
   Hematuria: likely secondary to anticoagulation. may have foley trauma
   - monitor Hct
   - will ultrasound bladder/kidney if hematurea continues
   - consult urology in the AM if it continues
   Altered mental status: improved. Patient was transferred to [**Hospital1 5**]
   because she was not following commands despite being off sedation. She
   had an EEG that showed encephalopathy at the OSH. she is following
   commands here, but anoxic brain injury is still possible considering
   cardiac arrest. Infection from c diff may also contribute. [**Last Name (un) **]
   extubated, she is following commads and moving all extremities, but
   seems to have difficulty with speech.
   -          consider neuro c/s
   -          serial CTs stable, continue to monitor
   -          consider ABG now extubated
   Hypotension: Resolved. off pressors for >48 hours
   FEN: S/S eval. TFs held overnight for extubation
   ACCESS: Lt IJ and A-line
   PROPHYLAXIS: PP. Heparin gtt
   CODE: Full
   DISPO:CCU
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-14**] 02:28 PM
   Arterial Line - [**2156-2-14**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: lovenox, coumadin)
   Stress ulcer: PPI
   VAP: Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated
   Patient unable to provide history: Sedated
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-16**] 06:08 PM
   Metronidazole - [**2156-2-17**] 08:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Metoprolol - [**2156-2-17**] 01:00 AM
   Pantoprazole (Protonix) - [**2156-2-17**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-17**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (97
   HR: 62 (56 - 139) bpm
   BP: 113/63(73) {88/52(63) - 127/76(82)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    886 mL
                                                                    444 mL
   PO:
             TF:
   IVF:
                                                                    856 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    865 mL
   Urine:
                                                                    840 mL
                                                                    865 mL
   NG:
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                   -114 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 326 (288 - 394) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   461 K/uL
   77 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   19 mg/dL
   105 mEq/L
   139 mEq/L
   29.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2156-2-14**]  04:50 PM
                             [**2156-2-14**]  04:56 PM
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
                             [**2156-2-15**]  09:42 AM
                             [**2156-2-15**]  04:05 PM
                             [**2156-2-16**]  04:07 AM
                             [**2156-2-16**]  04:15 AM
                             [**2156-2-17**]  04:40 AM
   WBC
   16.2
   15.5
   12.6
   13.7
   Hct
   28.4
   28.9
   29.8
   28.8
   29.4
   Plt
   490
   477
   492
   461
   Cr
   0.9
   0.7
   0.8
   0.9
   TCO2
   25
   27
   24
   22
   24
   Glucose
   65
   82
   102
   77
   Other labs: PT / PTT / INR:24.6/134.0/2.4, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 COAGULOPATHY: not HIT
   heparin restarted, warfarin to be given tonight
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
   s/p AVNRT ablation, now in NSR
 CARDIAC ARREST
   QTc now normal, off quinidine, in NSR
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
   On PO vancomycin and metronidazole
 SUBARACHNOID HEMORRHAGE (SAH)
   stable despite systemic anticoagulation.  related to ?initial
   trauma+resuscitation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-14**] 02:28 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4563**], MD
   on:[**2156-2-17**] 12:12 ------

2156-02-18 04:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Changed from heparin gtt to lovenox with coumadin bridge
   Failed S/S
   Later on, talking more with husband although hoarse voice
   Husband says 100% better compared to before; only difference from
   baseline is voice
   Also updated PCP, [**Last Name (NamePattern4) **]. [**First Name (STitle) **], who stopped by
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-16**] 06:08 PM
   Metronidazole - [**2156-2-18**] 01:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-2-17**] 08:24 AM
   Enoxaparin (Lovenox) - [**2156-2-18**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-18**] 04:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 61 (53 - 71) bpm
   BP: 125/58(72) {100/47(62) - 127/66(80)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    552 mL
                                                                    117 mL
   PO:
             TF:
   IVF:
                                                                    552 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    950 mL
   Urine:
                                                                  2,300 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,748 mL
                                                                   -833 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   VS: t 97.7, 151, 100/76, 18, 100% on 35%
   GENERAL: NAD. intubated not sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple, normal JVP.
   CARDIAC: normal s1s2,RRR. No m/r/g
   LUNGS: clear to auscultation b/l. good aeration
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 2+ pitting upper and le edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Neuro: patient responding to verbal commands, squeezing hands and
   opening eyes, wiggles toes. EOMI and PERRL. Speech garbled.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   373 K/uL
   8.7 g/dL
   77 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   19 mg/dL
   105 mEq/L
   139 mEq/L
   26.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2156-2-14**]  04:56 PM
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
                             [**2156-2-15**]  09:42 AM
                             [**2156-2-15**]  04:05 PM
                             [**2156-2-16**]  04:07 AM
                             [**2156-2-16**]  04:15 AM
                             [**2156-2-17**]  04:40 AM
                             [**2156-2-18**]  03:51 AM
   WBC
   16.2
   15.5
   12.6
   13.7
   11.4
   Hct
   28.4
   28.9
   29.8
   28.8
   29.4
   26.7
   Plt
   490
   477
   492
   461
   373
   Cr
   0.9
   0.7
   0.8
   0.9
   TCO2
   27
   24
   22
   24
   Glucose
   65
   82
   102
   77
   Other labs: PT / PTT / INR:17.2/38.5/1.6, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: This patient is a 78 y/o F with history of HTN, SVT, with massive
   clot burder, likely secondary to HIT, presenting with cardiac arrest
   likely secondary to torsades from quinidine/metoprolol.
   SVT: AVNRT vs AT. Now s/p ablation, has been in sinus rhythem since.
   This has been diagnosed [**2147**], asymtomatic. Patient had torsades after
   being started on quinidine/metoprolol to treat this.
   - discontinue amiodarone gtt
   - continue metoprolol 5mg IV q6hours, change to PO if tolerating,
   passes S/S
   Venous Thromboses: Patient has numerous thromboses with massive clot
   burden. She has PE, nonocclusive thrombosis of the descending aorta and
   upper abdominal aorta, splenic infarcts. Hematology consulted and feel
   symptoms with 2 negative HIT ab not c/w HIT sop have restarted heparin
   and will monitor.
   - appreciate hematology consult, f/u Serotonin release assay.
   - discontinue argatroban, had been switched to heparin, but will
   discontinue this and bridge to coumadin with lovenox
   - start with low coumadin dose 2mg given on flagyl and amiodarone
   - if neuro exam ad head CTs stable
   - malignancy w/u as outpatient
   Subarachnoid Hemorrhage: likely from anticoagulation and trauma of
   cardiac arrest. SAH is small on CT scan.
   - Neurosurgery recs appreciated
   - repeat head CT stable [**2-15**]
   - although anticoagulating patient with is SAH is not ideal, it is
   necessary in this case, will monitor neuro exams
   s/p Cardiac arrest: patient had a QTc of 672 on arrival to [**Location (un) **]
   [**Location (un) 478**]. cardiac arrest likely secondary to torsades from quinidine.
   Patient intubated initially requiring phenylephrine, now off. CE
   negative at OSH, so not from ACS.
   Torsades: likely secondary to quinidine and metoprolol. The patient had
   cardiac arrest, likely secondary to this. OSH EKG with QTc in 670s. Her
   QT is now 440s.
   -          Will hold all QT prolonging and AV blocking medications for
   now.
   -          ECG to monitor Qt
   Respiratory Failure: now extubated
   Clostridium Difficile: Patient had positive c diff at OSH, negative
   here.
   - continue PO vanc for 2 week course (day 1 [**2-11**]); needs S/S eval
   - IV flagyl in case of decreased absorption from diarrhea
   - hold loperamide given increased risk of toxic megacolon
   Nausea/Gagging: No further symptoms now extubated
   - antiemetics PRN
   Hematuria: likely secondary to anticoagulation. may have foley trauma
   - monitor Hct
   - will ultrasound bladder/kidney if hematurea continues
   - consult urology in the AM if it continues
   Altered mental status: improved. Patient was transferred to [**Hospital1 5**]
   because she was not following commands despite being off sedation. She
   had an EEG that showed encephalopathy at the OSH. she is following
   commands here, but anoxic brain injury is still possible considering
   cardiac arrest. Infection from c diff may also contribute. [**Last Name (un) **]
   extubated, she is following commads and moving all extremities, but
   seems to have difficulty with speech.
   -          consider neuro c/s
   -          serial CTs stable, continue to monitor
   -          consider ABG now extubated
   Hypotension: Resolved. off pressors for >48 hours
   FEN: S/S eval. TFs held overnight for extubation
   ACCESS: Lt IJ and A-line
   PROPHYLAXIS: PP. Heparin gtt
   CODE: Full
   DISPO:CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-14**] 02:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-02-19 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Able to take PO meds, but video swallow recommended prior to starting
   diet.
   - Started metoprolol 25 [**Hospital1 **].
   - Stopped IV metronidazole (cont PO vanc).
   - Patient pulled out L IJ CVC, no complications.
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2156-2-18**] 05:00 PM
   Vancomycin - [**2156-2-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2156-2-18**] 04:00 PM
   Enoxaparin (Lovenox) - [**2156-2-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-19**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 60 (52 - 79) bpm
   BP: 122/59(73) {93/46(58) - 135/71(86)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    540 mL
                                                                     61 mL
   PO:
             TF:
   IVF:
                                                                    540 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                    475 mL
   Urine:
                                                                  3,070 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,530 mL
                                                                   -414 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   GENERAL: NAD, alert.  A+O, voice improving
   HEENT: NCAT. Sclera anicteric. MMM.
   NECK: Supple,  JVP 8cm.
   CARDIAC: normal s1s2,RRR. Early systolic click. No m/r/g
   LUNGS: Faint dependent crackles. Otherwise clear to auscultation b/l.
   good aeration
   ABDOMEN: NABS. Soft, NTND.
   EXTREMITIES: 2+ pitting upper and LE edema. WWP.
   Neuro: Mental status improving, answers questions appropratiately
   Labs / Radiology
   368 K/uL
   8.6 g/dL
   64 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   15 mg/dL
   105 mEq/L
   141 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
   (No am labs [**2-19**] as CVC was removed by patient)
                             [**2156-2-15**]  12:20 AM
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
                             [**2156-2-15**]  09:42 AM
                             [**2156-2-15**]  04:05 PM
                             [**2156-2-16**]  04:07 AM
                             [**2156-2-16**]  04:15 AM
                             [**2156-2-17**]  04:40 AM
                             [**2156-2-18**]  03:51 AM
                             [**2156-2-18**]  08:39 PM
   WBC
   15.5
   12.6
   13.7
   11.4
   10.0
   Hct
   28.9
   29.8
   28.8
   29.4
   26.7
   25.9
   Plt
   477
   492
   461
   373
   368
   Cr
   0.7
   0.8
   0.9
   0.7
   TCO2
   27
   24
   22
   24
   Glucose
   82
   102
   77
   64
   Other labs: PT / PTT / INR:17.2/38.5/1.6, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This patient is a 78 y/o F with history of HTN, SVT, multiple arterial
   and venous clots presenting with cardiac arrest likely secondary to
   torsades from quinidine/metoprolol.
   s/p Cardiac arrest from Torsades: patient had a QTc of 672 on arrival
   to [**Location (un) **] [**Location (un) 478**]. Cardiac arrest likely secondary to torsades from
   quinidine.
   -Avoid QT prolonging medications for now.
   -monitor on tele
   SVT: AVNRT vs AT. Now s/p ablation, has been in sinus rhythm since.
   - continue metoprolol 25mg PO BID
   Pump: Patient admitted with echo showing severe global hypokinesis and
   EF <20%. Appear euvolemic.  Autodiuresing.
   -wean oxygen
   -cards follow up as outpatient
   Venous Thromboses: Patient has numerous thromboses with massive clot
   burden. She has PE, nonocclusive thrombosis of the descending aorta and
   upper abdominal aorta, splenic infarcts with unclear etiology for
   thrombophilia.
   - appreciate hematology consult, less likely HIT.  f/u Serotonin
   release assay.
   - Continue lovenox bridge to coumadin
   - malignancy w/u as outpatient
   Subarachnoid Hemorrhage: likely from anticoagulation and trauma of
   cardiac arrest. SAH is small on CT scan.
   - Neurosurgery recs appreciated
   - repeat head CT stable [**2-15**]
   - although anticoagulating patient with is SAH is not ideal, it is
   necessary in this case, will monitor neuro exams
   Clostridium Difficile: Patient had positive c diff at OSH, negative
   here.
   - continue PO vanc for 2 week course (day 1 [**2-11**])
   - IV flagyl in case of decreased absorption from diarrhea
   - hold loperamide given increased risk of toxic megacolon
   Fail speech and swallow. Voice improved.  Able to make meds but getting
   video swallow prior to starting diet. Anticipate improvement with time.
   -NPO for now
   Hematuria: Resolved.  Likely secondary to anticoagulation in setting of
   foley trauma.
   - monitor Hct
   - will ultrasound bladder/kidney if hematuria returns
   FEN: NPO pending S/S eval
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PIV
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin bridge to coumadin)
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:Transfer to floor with plan for rehab
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 5340**].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team. Progress reviewed extensively during family
   meeting.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing very well.  Voice is back.  No further SVT.  No
   clinically-apparent recurrent thrombosis on enoxaparin and warfarin,
   Plan:
   1. Video swallowing study
   2. Continue anticoagulation
   3. Rehab screening
   4. F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4912**]/[**Doctor Last Name 4563**] in [**3-1**] weeks
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4563**], MD
   on:[**2156-2-19**] 13:06 ------

2156-02-20 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -passed S+S for regular diet and thin liquids and ensure supplements,
   needs calorie count
   -got OOB to chair
   -ready to be d/ced once has a bed
   - PICC ordered
   Allergies:
   Erythromycin Base
   Rash;
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2156-2-18**] 05:00 PM
   Vancomycin - [**2156-2-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-20**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 56 (54 - 77) bpm
   BP: 127/108(114) {102/32(60) - 136/108(114)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    240 mL
                                                                     58 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                      0 mL
   Urine:
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -785 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: NAD, alert.  A+O, voice improving
   HEENT: NCAT. Sclera anicteric. MMM.
   NECK: Supple,  JVP 8cm.
   CARDIAC: normal s1s2,RRR. No m/r/g
   LUNGS: clear to auscultation b/l with poor inspiratory effort
   ABDOMEN: NABS. Soft, NTND.
   EXTREMITIES: 1+ pitting upper and LE edema. WWP.
   Neuro: Mental status improving, answers questions appropratiately
   Labs / Radiology
   378 K/uL
   9.3 g/dL
   73 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   8 mg/dL
   101 mEq/L
   136 mEq/L
   29.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2156-2-15**]  04:41 AM
                             [**2156-2-15**]  04:57 AM
                             [**2156-2-15**]  09:42 AM
                             [**2156-2-15**]  04:05 PM
                             [**2156-2-16**]  04:07 AM
                             [**2156-2-16**]  04:15 AM
                             [**2156-2-17**]  04:40 AM
                             [**2156-2-18**]  03:51 AM
                             [**2156-2-18**]  08:39 PM
                             [**2156-2-19**]  05:20 AM
   WBC
   15.5
   12.6
   13.7
   11.4
   10.0
   9.0
   Hct
   28.9
   29.8
   28.8
   29.4
   26.7
   25.9
   29.5
   Plt
   477
   492
   461
   373
   368
   378
   Cr
   0.7
   0.8
   0.9
   0.7
   0.6
   TCO2
   24
   22
   24
   Glucose
   82
   102
   77
   64
   73
   Other labs: PT / PTT / INR:16.0/35.0/1.4, CK / CKMB /
   Troponin-T:37//0.03, ALT / AST:25/16, Alk Phos / T Bili:54/0.9, Lactic
   Acid:1.3 mmol/L, Albumin:2.9 g/dL, LDH:271 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This patient is a 78 y/o F with history of HTN, SVT, multiple arterial
   and venous clots presenting with cardiac arrest likely secondary to
   torsades from quinidine/metoprolol.
   s/p Cardiac arrest from Torsades: patient had a QTc of 672 on arrival
   to [**Location (un) **] [**Location (un) 478**]. Cardiac arrest likely secondary to torsades from
   quinidine.
   -Avoid QT prolonging medications for now.
   -monitor on tele
   SVT: AVNRT vs AT. Now s/p ablation, has been in sinus rhythm since.
   - continue metoprolol 25mg PO BID
   Pump: Patient admitted with echo showing severe global hypokinesis and
   EF <20%. Appear euvolemic.  Autodiuresing.
   -wean oxygen
   -cards follow up as outpatient
   Venous Thromboses: Patient has numerous thromboses with massive clot
   burden. She has PE, nonocclusive thrombosis of the descending aorta and
   upper abdominal aorta, splenic infarcts with unclear etiology for
   thrombophilia.
   - appreciate hematology consult, less likely HIT.  f/u Serotonin
   release assay.
   - Continue lovenox bridge to coumadin, increase coumadin to 3mg daily
   - malignancy w/u as outpatient
   Subarachnoid Hemorrhage: likely from anticoagulation and trauma of
   cardiac arrest. SAH is small on CT scan.
   - Neurosurgery recs appreciated
   - repeat head CT stable [**2-15**]
   - although anticoagulating patient with is SAH is not ideal, it is
   necessary in this case, will monitor neuro exams
   Clostridium Difficile: Patient had positive c diff at OSH, negative
   here.
   - continue PO vanc for 2 week course (day 1 [**2-11**])
   - discontinue IV flagyl
   - hold loperamide given increased risk of toxic megacolon
   speech and swallow. Voice improved. video swallow.
   - regular diet and thin liquids and ensure supplements
   Hematuria: Resolved.  Likely secondary to anticoagulation in setting of
   foley trauma.
   - monitor Hct
   - will ultrasound bladder/kidney if hematuria returns
   ICU Care
   Nutrition: per s/s recs, can tolerate PO
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PIV
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin bridge to coumadin)
   Stress ulcer: not indicated
   VAP:  NA
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: to rehab when bed available
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 1093**].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy. I have discussed
   this plan with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing well.  Can swallow safely.  Voice is back to normal
   Plan:
   1. Continue medRx
   2. To rehab today
   3. F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4912**]/[**Doctor Last Name 4563**] [**4-14**] at 9 am
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4563**], MD
   on:[**2156-2-20**] 10:10 ------